US04255429
The starting material is prepared as follows: The mixture of 34.2 g of glutaric anhydride, 28.2 g of 4-aminopyridine and 650 ml of xylene is refluxed with stirring for 6 hours. It is allowed to cool to room temperature, the solids are filtered off and extracted twice with 200 ml chloroform at reflux. The combined extracts are evaporated and the residue recrystallized twice from ethyl acetate to yield the 1-(4-pyridyl)-piperidine-2,6-dione melting at 153°-155°.

reactant | glutaric anhydride | 34.2 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | 4-aminopyridine | 28.2 g | NC1=CC=NC=C1 | C5H6N2
solvent | xylene | 650 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(4-pyridyl)-piperidine-2,6-dione | N1=CC=C(C=C1)N1C(CCCC1=O)=O | C10H10N2O2
